US07605272B2
A solution of 4-fluoro-2-nitrobenzaldehyde (0.20 g, 1.2 mmol) in DMSO (3.5 mL) was added with 2-methylaminoethanol (0.52 mL, 6.5 mmol) and stirred at 100° C. for 5.0 hours. The reaction mixture was added with water and was washed with hexane/ethyl acetate (4/1) to remove impurities. After removing the impurities, the reaction mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate. Then, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to obtain 4-[N-(2-hydroxyethyl) methylamino]-2-nitrobenzaldehyde (0.20 g, 75%).

reactant | 4-fluoro-2-nitrobenzaldehyde | 1.2 mmol, 0.20 g | FC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C7H4FNO3
reactant | 2-methylaminoethanol | 6.5 mmol, 0.52 mL | CNCCO | C3H9NO
reactant | water | O | H2O
solvent | DMSO | 3.5 mL | CS(=O)C | C2H6OS
product | 4-[N-(2-hydroxyethyl) methylamino]-2-nitrobenzaldehyde | 0.20 g, 75% | OCCN(C1=CC(=C(C=O)C=C1)[N+](=O)[O-])C | C10H12N2O4
